US08293448B2
After adding 721 g (8.0 mol) of 1,4-butanediol and 350 ml of toluene in a glass flask having an internal volume of 2000 ml equipped with a stirrer, a thermometer, a dropping funnel, and a reflux condenser and heating up to 60° C. while stirring, 38.7 g (0.12 mol) of tetrabutylammonium bromide and 184 g (4.4 mol) of 96 mass % sodium hydroxide were added and heated up to 75° C. while stirring. Then, 777 g (3.8 mol) of 3-ethyl-3-methanesulfonyloxymethyloxetane with a purity of 95 mass % synthesized in (1) above was gently dropped while keeping the liquid temperature from 75° C. to 85° C. to carry out a reaction at the same temperature range for two hours. After completing the reaction, 800 ml of water was added to the reaction solution [a bisoxetane ether compound was generated as little as 7% (value analyzed by gas chromatography)] to separate into a water layer and an organic layer. The organic layer thus obtained was added with 800 ml of toluene and 400 ml of water, and by adding acetic acid while stirring, the pH was adjusted to 9.5. Then, after separating into a water layer and an organic layer, the water layer was extracted twice with 400 ml of toluene, the extract (toluene liquid) was mixed with the previous organic layer and concentrated under reduced pressure. By distilling the concentrate thus obtained under reduced pressure (from 157° C. to 159° C., 1.9 kPa), 497 g of 3-ethyl-3-(4-hydroxybutyl)oxymethyloxetane with a purity of 96% (value analyzed by gas chromatography) as a colorless liquid was obtained (isolated yield based on 3-ethyl-3-methanesulfonyloxymethyloxetane=67%).

reactant | 1,4-butanediol | 8.0 mol, 721 g | C(CCCO)O | C4H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-ethyl-3-methanesulfonyloxymethyloxetane | 3.8 mol, 777 g | C(C)C1(COC1)COS(=O)(=O)C | C7H14O4S
catalyst | tetrabutylammonium bromide | 0.12 mol, 38.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 400 ml | O | H2O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 800 ml | O | H2O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 3-ethyl-3-(4-hydroxybutyl)oxymethyloxetane | 497 g | C(C)C1(COC1)COCCCCO | C10H20O3
